US07161032B2
In ethanol (120 ml) was dissolved 34.9 g (120 mmol) of 2-(benzyloxycarbonylamino)propyl methanesulfonate, followed by adding dropwise thereto a thiolate separately prepared from 14.42 g (120 mmol) of thioglycolic acid and a solution of sodium ethoxide (120 mmol) in ethanol. The reaction was carried out at room temperature for 30 minutes and then at 50° C. for 2 hours, after which the solvent was distilled off and water was added to the residue, followed by three runs of extraction with ethyl acetate. The extract solution was washed with saturated aqueous sodium hydrogencarbonate solution and then saturated aqueous sodium chloride solution, and dried over anhydrous sodium sulfate. The solvent was distilled off and the resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=4:1) to obtain 34.5 g (yield 92%) of 2-(benzyloxycarbonylamino)propylthioacetic acid.

reactant | 2-(benzyloxycarbonylamino)propyl methanesulfonate | 120 mmol, 34.9 g | CS(=O)(=O)OCC(C)NC(=O)OCC1=CC=CC=C1 | C12H17NO5S
reactant | thioglycolic acid | 120 mmol, 14.42 g | C(CS)(=O)O | C2H4O2S
reactant | sodium ethoxide | 120 mmol | [O-]CC.[Na+]
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | 2-(benzyloxycarbonylamino)propylthioacetic acid | 34.5 g, yield 92% | C(C1=CC=CC=C1)OC(=O)NC(CCC(=S)O)C | C13H17NO3S
